US08119842B2
A mixture of crude 4-(3,5-difluoro-phenyl)-butyric acid propyl ester (3.3 kg), water (4.4 kg), and 50% sodium hydroxide (3.35 kg) were stirred at 50° C. for 1 hour. The hydrolysis was monitored by HPLC. The resulting solution was washed with hexane (4.2 kg) to remove organic impurities. The aqueous layer was acidified with conc. HCl (4.73 kg), and extracted with MTBE (4.23 kg). The solution was concentrated, and residual MTBE was removed by solvent exchange with n-heptane (4.0 liters) to give crude 4-(3,5-difluoro-phenyl)-butyric acid (2.8 kg) as an oil: H1 NMR (300 MHz): δ (CDCl3): 1.94 (2H, p, J=7.54 Hz), 2.38 (2H, t, J=7.54 Hz), 2.65 (2H, t, J=7.54 Hz), 6.63 (1H, tt, J=2.26, 9.04 Hz), 6.7 (2H, m, J=2.26, 6.4 Hz), 11.70 (1H, bs, COOH)

reactant | 4-(3,5-difluoro-phenyl)-butyric acid propyl ester | 3.3 kg | C(CC)OC(CCCC1=CC(=CC(=C1)F)F)=O | C13H16F2O2
reactant | sodium hydroxide | 3.35 kg | [OH-].[Na+]
solvent | water | 4.4 kg | O | H2O
product | 4-(3,5-difluoro-phenyl)-butyric acid | 2.8 kg | FC=1C=C(C=C(C1)F)CCCC(=O)O | C10H10F2O2
